US07875645B2
3-Ethoxy-2,6-diethyl-benzaldehyde was prepared from 2,6-diethyl-3-hydroxy-benzaldehyde, cesium carbonate and iodoethane in analogy to Example 213b): yellow oil; 1H-NMR (CDCl3): 1.21 (3H, t, CH3), 1.23 (3H, t, CH3), 1.43 (3H, t, CH3), 2.86 (2H, q, CH2), 2.96 (2H, q, CH2), 4.04 (2H, q, OCH2), 6.96 (1H, d, ArH), 7.05 (1H, d, ArH), 10.57 (1H, s, CH═O).

reactant | 2,6-diethyl-3-hydroxy-benzaldehyde | C(C)C1=C(C=O)C(=CC=C1O)CC | C11H14O2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | ICC | C2H5I
product | 3-Ethoxy-2,6-diethyl-benzaldehyde | C(C)OC=1C(=C(C=O)C(=CC1)CC)CC | C13H18O2
